* C:\users\karmic\Desktop\Amplifiers Simulations\SingleStageAmplifiers\CSN_NMOSDiodegain.asc
V1 Vin 0 5
V2 VDD 0 5
M1 Vout Vin 0 0 test l=1u w=3u
M2 VDD VDD Vout Vout test1 l=1u w=1u
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\karmic\My Documents\LTspiceXVII\lib\cmp\standard.mos
.dc V1 0 5 0.01
.model test nmos(kp=90u vto=0.7v)
.model test1 nmos(kp=90u vto=0.7v)
.backanno
.end
